* C:\Users\Jovany\Documents\Github\bajacpp_diff_amp\Differential.asc
R1 Vout+ N007 1k
R2 Vout- Vout+ 1k
R3 N007 N006 1k
R4 N008 N002 1k
C1 N002 0 200p
R5 N002 0 1k
R6 N002 N001 499
V1 N001 0 12
V2 N011 0 12
R7 N006 Vin 1k
C2 N007 N006 1µ
R8 N003 N004 1k
R9 N014 N012 1k
R10 Vin N005 1k
R11 0 N010 1k
R12 N005 N004 1k
R13 N010 N014 1k
R14 N003 N012 1k
R15 Vdiff+ N009 1k
C3 Vdiff+ Vdiff- 1µ
R16 Vdiff- N013 1k
V3 N009 N013 12 AC 1
V4 Vce 0 0
V5 Vcc 0 12
XU1 Vdiff+ N003 Vcc Vce N004 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU2 Vdiff- N012 Vcc Vce N014 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU3 N011 Vout+ Vcc Vce Vout- level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU4 N008 N006 Vcc Vce N007 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU5 N010 N005 Vcc Vce Vin level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
* IN-AMP GAIN: 100
.ac dec 1000 1 1000
.lib UniversalOpAmp1.lib
.backanno
.end
